US08138173B2
Under a nitrogen atmosphere, a mixture of 2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinoline-one (3.0 g, 11.5 mmol), N,N,N′N′-tetramethylethylenediamine (7.7 mL), and tetrahydrofuran (128 mL) was chilled to 0° C. A solution of n-butyllithium in hexanes (12 mL of 2.86 M) was added dropwise. After the addition was complete the reaction mixture was stirred for 5 minutes at 0° C. and then cooled to −78° C. To the cooled solution was added iodobutane (3.9 mL, 34.5 mmol). The reaction mixture was warmed to ambient temperature and stirred for 30 minutes before quenching with saturated aqueous ammonium chloride. The aqueous layer was extracted with dichloromethane. The combined organic extracts were dried over sodium sulfate, filtered, and concentrated under reduced pressure to 100 mL of solvent. This was placed directly on a silica gel column and purified by automated flash chromatography (AnaLogix, eluted with a gradient of 0-50% CMA in chloroform) to provide 3.7 g of 1-butyl-2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one as a 2:1 mixture of product to starting material.

reactant | 2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinoline-one | 11.5 mmol, 3.0 g | C1(=CC=CC=C1)N1NC=2CNC=3C=CC=CC3C2C1=O | C16H13N3O
reactant | n-butyllithium | C(CCC)[Li]
reactant | iodobutane | 34.5 mmol, 3.9 mL | ICCCC | C4H9I
reactant | tetrahydrofuran | 128 mL | O1CCCC1 | C4H8O
product | 1-butyl-2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one | 3.7 g | C(CCC)C=1N(N=C2C(NC=3C=CC=CC3C21)=O)C2=CC=CC=C2 | C20H19N3O
